US04161407
Vinylbenzyl 2-Phenyl-2-hydroxyethyl Sulfide
To 125 ml of absolute ethanol was added 5.7 g (0.247 moles) of sodium metal. After the sodium had dissolved, the solution was cooled to 0° to 5° C. and 38 g (0.247 moles) of 1-phenyl-2-mercaptoethanol was added dropwise. After addition, the reaction was stirred at 0° to 5° C. for 1 hour and then 37.7 g (0.247 moles) of vinylbenzyl chloride was added dropwise. After the addition was complete, 0.5 g of hydroquinone was added and the mixture was refluxed for 2 hours. The mixture was cooled and the sodium chloride was removed by filtration. The solvent was evaporated and the residue was added to 100 ml of water. The aqueous mixture was extracted with three 100 ml portions of ether and the combined ethereal extracts were dried over anhydrous magnesium sulfate, filtered, and the solvent evaporated to leave 70 g of the product as a crude oil. Due to its high boiling point, the product was used without further purification in the synthesis of the following sulfone.

reactant | sodium | 0.247 moles, 5.7 g | [Na] | Na
reactant | 1-phenyl-2-mercaptoethanol | 0.247 moles, 38 g | C1(=CC=CC=C1)C(CS)O | C8H10OS
reactant | vinylbenzyl chloride | 0.247 moles, 37.7 g | C(=C)C(C1=CC=CC=C1)Cl | C9H9Cl
catalyst | hydroquinone | 0.5 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | Vinylbenzyl 2-Phenyl-2-hydroxyethyl Sulfide | 70 g | C1(=CC=CC=C1)C(CSC(C1=CC=CC=C1)C=C)O | C17H18OS
